US08115017B2
(1) Preparation of 2,3,4,6-tetra-O-benzyl-1-C-[2-(benzyloxy)-5-{hydroxy[4-(methoxymethoxy)phenyl]methyl}-4-methylphenyl]-5-thio-α-D-glucopyranose
To a solution of 1-bromo-4-(methoxymethoxy)benzene (1.55 g, 7.13 mmol) in tetrahydrofuran (7.5 mL), 2.67 M n-butyllithium in hexane (2.58 mL, 6.9 mmol) was added dropwise at −60° C. under a nitrogen atmosphere. Then, a solution of 2,3,4,6-tetra-O-benzyl-1-C-[2-(benzyloxy)-5-formyl-4-methylphenyl]-5-thio-D-glucopyranose (1.80 g, 2.30 mmol) in tetrahydrofuran (10 mL) was added dropwise and stirred at −78° C. for 10 minutes. After addition of saturated aqueous ammonium chloride, the reaction mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate. After filtering off the desiccant, the solvent was distilled off under reduced pressure and the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=3:1→1:1) to give the titled compound (1.2 g, 57%) as a yellow amorphous substance.

reactant | 1-bromo-4-(methoxymethoxy)benzene | 7.13 mmol, 1.55 g | BrC1=CC=C(C=C1)OCOC | C8H9BrO2
reactant | hexane | 6.9 mmol, 2.58 mL | CCCCCC | C6H14
reactant | 2,3,4,6-tetra-O-benzyl-1-C-[2-(benzyloxy)-5-formyl-4-methylphenyl]-5-thio-D-glucopyranose | 2.30 mmol, 1.80 g | C(C1=CC=CC=C1)O[C@H]1C(O)(S[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=C(C=C(C(=C1)C=O)C)OCC1=CC=CC=C1 | C49H48O7S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 7.5 mL | O1CCCC1 | C4H8O
solvent | n-butyllithium | 2.67 M | C(CCC)[Li]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2,3,4,6-tetra-O-benzyl-1-C-[2-(benzyloxy)-5-{hydroxy[4-(methoxymethoxy)phenyl]methyl}-4-methylphenyl]-5-thio-α-D-glucopyranose | 1.2 g, 57% | C(C1=CC=CC=C1)O[C@H]1[C@@](O)(S[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=C(C=C(C(=C1)C(C1=CC=C(C=C1)OCOC)O)C)OCC1=CC=CC=C1 | C57H58O9S
